US08067445B2
Step 3: {2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-quinolin-6-yl-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-quinolin-6-yl-biphenyl-3-yl)-acetic acid ethyl ester and cyclopropanecarbonyl chloride.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-quinolin-6-yl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=C2C=CC=NC2=CC1)CNCC)=O | C29H30N2O3
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | {2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-quinolin-6-yl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=C2C=CC=NC2=CC1)CN(CC)C(=O)C1CC1)=O | C33H34N2O4
